US09403808B2
5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (4-hydroxy-1,1-dimethyl-butyl)-amide
5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (Example 10 g, 100 mg, 0.43 mmol) was suspended in DMF (3 mL). Mukaiyama Reagent (CAN 878-23-9, 233.8 mg, 0.85 mmol), DIEA (0.31 mL, 2.24 mmol) and 4-amino-4-methyl-pentan-1-ol (CAN 85054-53-1, 101.33 mg, 0.64 mmol) were added and the reaction mixture was stirred at room temperature for 12 hours. The mixture was extracted with ethyl acetate and water; the organic phase was dried over Na2SO4, filtered and concentrated in vacuo. The crude material was purified by reverse phase preparative HPLC (Xterra-RP18, 10 μ, 19×250 mm/acetonitrile/10 mM ammonium acetate in water) to give the desired product (100 mg, 70.26%) as colorless sticky liquid; LC-MS (UV peak area, ESI) 96.12%, 334.0 (M+H).

reactant | 5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid | 0.43 mmol, 10 g | C1(CC1)C=1N=CC(=NC1OCC1CC1)C(=O)O | C12H14N2O3
reactant | DIEA | 2.24 mmol, 0.31 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-amino-4-methyl-pentan-1-ol | 0.64 mmol, 101.33 mg | NC(CCCO)(C)C | C6H15NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (4-hydroxy-1,1-dimethyl-butyl)-amide | 100 mg, 70.26% | OCCCC(C)(C)NC(=O)C1=NC(=C(N=C1)C1CC1)OCC1CC1 | C18H27N3O3
